US05081271
b) Methyl 4-[(3-Trimethylsilylphenyl)ethenyl]benzoate
(m-Trimethylsilylbenzyl)phosphonium bromide (758 mg, 1.50 mmol) and methyl 4-formylbenzoate (258 mg, 1.57 mmol) were added to a NaOMe-methanol solution, which was prepared from 40 mg (1.74 mmol) of Na metal and 15 ml of dry methanol, and the mixture was stirred for 17 hours. The precipitate (trans form) was collected by filtration, washed with a cooled mixture of MeOH and n-hexane, and dried in vacuo to give 115 mg of white crystals. The mother liquors were evaporated and dissolved in CH2Cl2. The insoluble substance was filtered off and the filtrate was evaporated. The residue was purified by column chromatography to give 60 mg of colorless oil (cis form, yield 13%), 158 mg of white crystals (trans form, total yield 59%) and 110 mg of interfraction (yield 23%).

reactant | (m-Trimethylsilylbenzyl)phosphonium bromide | 1.50 mmol, 758 mg | [Br-].C[Si](C=1C=C(C[PH3+])C=CC1)(C)C
reactant | methyl 4-formylbenzoate | 1.57 mmol, 258 mg | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | NaOMe methanol | C[O-].[Na+].CO
solvent | methanol | 15 ml | CO | CH4O
product | Methyl 4-[(3-Trimethylsilylphenyl)ethenyl]benzoate | 115 mg | C[Si](C=1C=C(C=CC1)C=CC1=CC=C(C(=O)OC)C=C1)(C)C | C19H22O2Si
